US04310467
To a solution of 2.7 g of (20S)-21-acetyloxy-20-methylpregn-5-ene-1α,3β-diol in 120 ml of benzene containing 30 mg of anhydrous p-toluenesulfonic acid was added 4.2 ml of 3,4-dihydro-2H-pyran. The reaction mixture was left at 20° for 2 hr. and then poured onto an ice-cold 5% sodium bicarbonate solution. The product was extracted with ether. The ether extract was washed with saturated sodium chloride solution, dried (Na2SO4) and evaporated under reduced pressure. After drying at 0.05 mm, 4.3 g of (20S)-21-acetoxy-1α,3β-bis[(tetrahydro-2H-pyran-2-yl)oxy]-20-methylpregn-5-ene was obtained which, after recrystallization from methanol--ether, had mp 155°-161°.

reactant | (20S)-21-acetyloxy-20-methylpregn-5-ene-1α,3β-diol | 2.7 g | C(C)(=O)OC[C@H]([C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)C | C24H38O4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,4-dihydro-2H-pyran | 4.2 ml | O1CCCC=C1 | C5H8O
reactant | benzene | 120 ml, 30 mg | C1=CC=CC=C1 | C6H6
product | (20S)-21-acetoxy-1α,3β-bis[(tetrahydro-2H-pyran-2-yl)oxy]-20-methylpregn-5-ene | 4.3 g | C(C)(=O)OC[C@H]([C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC1OCCCC1)OC1OCCCC1)C | C34H54O6
